data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
2421,2689,[CH3:18][NH:19][C:20](=[O:21])[C:22](=[NH+:23][C-:24]([C:25]([CH3:26])=[O:27])[C:28]([CH3:29])=[O:30])[C:31](=[O:32])[O:33][CH3:34].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[CH:13]2[CH:14]=[CH:15][CH:16]1[O:17]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([c:7]3[cH:8][cH:9][cH:10][cH:11][cH:12]3)([CH:13]3[CH:14]=[CH:15][CH:16]1[O:17]3)[C:22]([C:20]([NH:19][CH3:18])=[O:21])([C:31](=[O:32])[O:33][CH3:34])[NH:23][C:24]2([C:25]([CH3:26])=[O:27])[C:28]([CH3:29])=[O:30],water,298.15,35.39491636824961,-7.695042393658638
160,177,[CH3:11][C:12]#[N+:13][N-:14][C:15](=[O:16])[NH:17][CH3:18].[N:1]#[C:2][C:3]1=[C:4]([F:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[N:1]#[C:2][C:3]1=[C:4]([F:5])[CH:6]2[CH:7]3[CH:8]([CH:9]1[O:10]2)[N:14]([C:15](=[O:16])[NH:17][CH3:18])[N:13]=[C:12]3[CH3:11],water,298.15,18.02358359855884,-54.963752477376346
112,128,[CH3:12][C:13](=[O:14])[C:15]#[N+:16][NH-:17].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[CH:6][CH:7]2[CH2:8][CH2:9][CH:10]1[CH2:11]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[CH:6]([CH:7]3[CH2:8][CH2:9][CH:10]1[CH2:11]3)[C:15]([C:13]([CH3:12])=[O:14])=[N:16][NH:17]2,water,298.15,12.439339971635356,-48.57631724636401
2586,2867,[CH3:16][NH:17][C:18](=[O:19])[c:20]1[o:21][c:22](=[O:23])[c-:24](-[c:25]2[cH:26][cH:27][cH:28][cH:29][cH:30]2)[n+:31]1[CH3:32].[CH3:1][O:2][C:3](=[O:4])[C:5]([Br:6])=[C:7]([C:8](=[O:9])[O:10][CH3:11])[C:12](=[O:13])[O:14][CH3:15]>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([Br:6])[C:7]([C:8](=[O:9])[O:10][CH3:11])([C:12](=[O:13])[O:14][CH3:15])[C:20]2([C:18]([NH:17][CH3:16])=[O:19])[O:21][C:22](=[O:23])[C:24]1([c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1)[N:31]2[CH3:32],water,298.15,22.25939775606757,7.564178227166287
2577,2858,[CH3:1][C:2]1([c:3]2[cH:4][cH:5][cH:6][cH:7][cH:8]2)[C:9]#[C:10][C:11]([c:12]2[cH:13][cH:14][cH:15][cH:16][cH:17]2)([c:18]2[cH:19][cH:20][cH:21][cH:22][cH:23]2)[CH2:24][CH2:25][CH2:26][CH2:27]1.[CH3:28][C:29]#[N+:30][C-:31]([C:32]#[N:33])[C:34](=[O:35])[NH:36][CH3:37]>>[CH3:1][C:2]1([c:3]2[cH:4][cH:5][cH:6][cH:7][cH:8]2)[C:9]2=[C:10]([C:11]([c:12]3[cH:13][cH:14][cH:15][cH:16][cH:17]3)([c:18]3[cH:19][cH:20][cH:21][cH:22][cH:23]3)[CH2:24][CH2:25][CH2:26][CH2:27]1)[C:31]([C:32]#[N:33])([C:34](=[O:35])[NH:36][CH3:37])[N:30]=[C:29]2[CH3:28],water,298.15,21.60217642528532,-41.86662359107986
3586,4093,[CH3:1][C:2]([CH3:3])=[C:4]([CH3:5])[CH3:6].[CH3:7][O:8][C:9](=[O:10])[C:11]#[N+:12][CH-:13][c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1>>[CH3:1][C:2]1([CH3:3])[C:4]([CH3:5])([CH3:6])[CH:13]([c:14]2[cH:15][cH:16][cH:17][cH:18][cH:19]2)[N:12]=[C:11]1[C:9]([O:8][CH3:7])=[O:10],water,298.15,21.083251609922765,-38.613706889751725
1044,1139,[Cl:1][C:2]1=[CH:3][CH:4]2[CH:5]=[CH:6][CH:7]1[O:8]2.[N:9]#[C:10][C:11]#[N+:12][C-:13]([c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1)[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1>>[Cl:1][C:2]12[CH:3]([CH:4]3[CH:5]=[CH:6][CH:7]1[O:8]3)[C:13]([c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1)([c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1)[N:12]=[C:11]2[C:10]#[N:9],water,298.15,13.141438180891823,-52.70931411392532
3436,3906,[CH3:10][O:11][C:12](=[O:13])[C-:14]([C:15]#[N:16])[N+:17]#[N:18].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:14]([C:12]([O:11][CH3:10])=[O:13])([C:15]#[N:16])[N:17]=[N:18]1,water,298.15,32.60795013868552,2.0230805068595488
4916,5600,[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[CH:7]=[CH:8]1.[CH3:9][C:10](=[O:11])[C:12]([C:13]#[N:14])=[O+:15][C-:16]([c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1)[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1>>[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[C@H:7]2[C@@H:8]1[C:16]([c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1)([c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1)[O:15][C:12]2([C:10]([CH3:9])=[O:11])[C:13]#[N:14],water,298.15,18.99125012180188,-21.99737057364356
1361,1496,[CH3:16][C:17](=[O:18])[C-:19]([CH3:20])[O+:21]=[C:22]([C:23]#[N:24])[C:25]#[N:26].[F:1][C:2]([F:3])([F:4])[C:5]1=[C:6]([C:7]([F:8])([F:9])[F:10])[CH:11]2[CH:12]=[CH:13][CH:14]1[O:15]2>>[F:1][C:2]([F:3])([F:4])[C:5]1=[C:6]([C:7]([F:8])([F:9])[F:10])[CH:11]2[CH:12]3[CH:13]([CH:14]1[O:15]2)[C:19]([C:17]([CH3:16])=[O:18])([CH3:20])[O:21][C:22]3([C:23]#[N:24])[C:25]#[N:26],water,298.15,8.072185577510835,-51.49397939982094
1886,2091,[CH3:17][NH:18][C:19](=[O:20])[C-:21]([O+:22]=[C:23]([CH3:24])[C:25]#[N:26])[C:27](=[O:28])[O:29][CH3:30].[CH3:1][O:2][C:3]1([C:4]#[N:5])[C:6]#[C:7][C:8]([C:9]#[N:10])([C:11]#[N:12])[CH2:13][CH2:14][CH2:15][CH2:16]1>>[CH3:1][O:2][C:3]1([C:4]#[N:5])[C:6]2=[C:7]([C:8]([C:9]#[N:10])([C:11]#[N:12])[CH2:13][CH2:14][CH2:15][CH2:16]1)[C:23]([CH3:24])([C:25]#[N:26])[O:22][C:21]2([C:19]([NH:18][CH3:17])=[O:20])[C:27](=[O:28])[O:29][CH3:30],water,298.15,12.70585099399319,-72.6597158688422
